US08466167B2
A solution of 2-(tert-butoxycarbonylamino)-4-(methoxycarbonyl) phenylboronic acid (from the previous step) (1.0 eq.) and 3-bromopicolinonitrile (1.0 eq.), tetrakis(triphenyl-phosphine)palladium (5 mol %), and 2N aqueous sodium carbonate solution (2.0 eq.) in toluene/ethanol (2:1, 0.03 M) was stirred at 100° C. overnight. After cooling to ambient temperature, the reaction mixture was filtered to collect the precipitate. The precipitate was rinsed with EtOAc to give methyl 5-aminobenzo[f][1,7]naphthyridine-8-carboxylate as a pale brown solid.

reactant | 2-(tert-butoxycarbonylamino)-4-(methoxycarbonyl) phenylboronic acid | C(C)(C)(C)OC(=O)NC1=C(C=CC(=C1)C(=O)OC)B(O)O | C13H18BNO6
reactant | 3-bromopicolinonitrile | 1.0 eq. | BrC=1C(=NC=CC1)C#N | C6H3BrN2
reactant | sodium carbonate | 2N, 2.0 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene ethanol | 0.03 M | C1(=CC=CC=C1)C.C(C)O
product | methyl 5-aminobenzo[f][1,7]naphthyridine-8-carboxylate | NC1=NC2=C(C=3C=CC=NC13)C=CC(=C2)C(=O)OC | C14H11N3O2
